US06552015B2
A white mixture of 2-[3-(2-[1,3]dioxolan-2-yl-ethyl)-ureido]-benzoic acid methyl ester (0.50 g, 1.70 mmol) and 1N sodium hydroxide (2.0 mL) in ethanol (10 mL) was warmed until all the solids had gone into solution. The resulting colorless solution was cooled to ambient temperature and stirred for 30 minutes. Concentration yielded a colorless foam which was dissolved in water (15 mL); after 15 minutes, a white crystalline solid formed. The white crystalline solid was collected and dried to yield 3-(2-[1,3]dioxolan-2-yl-ethyl)-1H-quinazoline-2,4-dione (0.19 g, 43%). 1NMR CDCl3 δ7.92 (dd, J=1, 8 Hz, 1H), 7.67-7.61 (m, 1H), 7.22-7.15 (m, 2H) 4.88 (t, J=4 Hz, 1H), 4.00 (t, J=7 Hz, 2H), 3.89-3.71 (m, 4H), 1.93-1.86 (m, 2H).

reactant | 2-[3-(2-[1,3]dioxolan-2-yl-ethyl)-ureido]-benzoic acid methyl ester | 1.70 mmol, 0.50 g | COC(C1=C(C=CC=C1)NC(=O)NCCC1OCCO1)=O | C14H18N2O5
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 3-(2-[1,3]dioxolan-2-yl-ethyl)-1H-quinazoline-2,4-dione | 0.19 g, 43% | O1C(OCC1)CCN1C(NC2=CC=CC=C2C1=O)=O | C13H14N2O4
